### PR TITLE
Add Lemoine's conjectures

### PR DESCRIPTION
**Pull request by Reklle**

### CODE REVIEW

File: FormalConjectures/Wikipedia/Lemoine.lean [hunk 1]
```diff
@@ -0,0 +1,38 @@
...
+  sorry
+
+/--
+All odd integers $n > 5$ there are prime numbers $p,q,r,s$ and natural numbers $a,b$
+such that $p+2q = n$, $2+pq = 2^a+r$, $2p+q = 2^b+s$
+-/
+@[category research open, AMS 11]
+theorem lemoine_conjecture_extension (n : ℕ) (hn : 3 < n) :
+    ∃ (p q r s a b : ℕ), p.Prime ∧ q.Prime ∧ r.Prime ∧ s.Prime ∧
+    p + 2 * q = 2 * n + 1 ∧ 2 + p * q = Nat.pow 2 a + r ∧ 2 * p + q = Nat.pow 2 b + s := by
```
Comment (alreadydone) [inline FormalConjectures/Wikipedia/Lemoine.lean]: Why not
```suggestion
    p + 2 * q = 2 * n + 1 ∧ 2 + p * q = 2 ^ a + r ∧ 2 * p + q = 2 ^ b + s := by
```

File: FormalConjectures/Wikipedia/Lemoine.lean [hunk 2]
```diff
@@ -0,0 +1,38 @@
...
+/--
+All odd integers $n > 5$ there are prime numbers $p,q$ such that $n = p+2q$.
+-/
+@[category research open, AMS 11]
+theorem lemoine_conjecture (n : ℕ) (hn : 2 < n) :
+    ∃ (p q : ℕ), p.Prime ∧ q.Prime ∧ p + 2 * q = 2 * n + 1 := by
+  sorry
+
+/--
+All odd integers $n > 5$ there are prime numbers $p,q,r,s$ and natural numbers $a,b$
```
Comment (alreadydone) [inline FormalConjectures/Wikipedia/Lemoine.lean]: The condition should be `n > 7` or `n ≥ 9`

and maybe clarify this conjecture is due to John Kiltinen and Peter Young.

File: FormalConjectures/Wikipedia/Lemoine.lean (hunk 1 above)
Comment (Reklle) [reply FormalConjectures/Wikipedia/Lemoine.lean]: When I wrote this, the compiler complained... Not anymore. Strange.

File: FormalConjectures/Wikipedia/Lemoine.lean (hunk 2 above)
Comment (Reklle) [reply FormalConjectures/Wikipedia/Lemoine.lean]: Thanks! Corrected
And now the conjecture correspond to the original article.

File: FormalConjectures/Wikipedia/Lemoine.lean [hunk 3]
```diff
@@ -0,0 +1,43 @@
...
+theorem lemoine_conjecture (n : ℕ) (hn : 2 < n) :
+    ∃ (p q : ℕ), p.Prime ∧ q.Prime ∧ p + 2 * q = 2 * n + 1 := by
+  sorry
+
+/--
+All odd integers $n ≥ 9$ there are odd prime numbers $p,q,r,s$ and natural numbers $a,b$
+such that $p+2q = n$, $2+pq = 2^a+r$, $2p+q = 2^b+s$
+-/
+@[category research open, AMS 11]
+theorem lemoine_conjecture_extension (n : ℕ) (hn : 3 < n) :
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/Lemoine.lean]: The hypothesis on `n` no longer matches the docstring, and you'll also want to mention that `n` is odd somewhere. 
(same for the theorem above)

File: FormalConjectures/Wikipedia/Lemoine.lean [hunk 4]
```diff
@@ -0,0 +1,43 @@
...
+*References:*
+- [Wikipedia](https://en.wikipedia.org/wiki/%C3%89mile_Lemoine#Lemoine's_conjecture_and_extensions)
+- [Ki85] Kiltinen, J. and Young P. (1985). Goldbach, Lemoine, and a Know/Don't Know Problem.
+-/
+
+def OddPrime (n : ℕ) : Prop :=
+  n ≠ 2 ∧ n.Prime
+
+/--
+All odd integers $n ≥ 7$ there are prime numbers $p,q$ such that $n = p+2q$.
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/Lemoine.lean]:
```suggestion
For all odd integers $n ≥ 7$ there are prime numbers $p,q$ such that $n = p+2q$.
```

File: FormalConjectures/Wikipedia/Lemoine.lean [hunk 5]
```diff
@@ -0,0 +1,43 @@
...
+-/
+@[category research open, AMS 11]
+theorem lemoine_conjecture (n : ℕ) (hn : 2 < n) :
+    ∃ (p q : ℕ), p.Prime ∧ q.Prime ∧ p + 2 * q = 2 * n + 1 := by
+  sorry
+
+/--
+All odd integers $n ≥ 9$ there are odd prime numbers $p,q,r,s$ and natural numbers $a,b$
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/Lemoine.lean]:
```suggestion
For all odd integers $n ≥ 9$ there are odd prime numbers $p,q,r,s$ and natural numbers $a,b$
```

File: FormalConjectures/Wikipedia/Lemoine.lean (hunk 3 above)
Comment (Reklle) [reply FormalConjectures/Wikipedia/Lemoine.lean]: I thought it would be good to simplify the odd condition to $2n+1$

Comment (Paul-Lez) [reply FormalConjectures/Wikipedia/Lemoine.lean]: My bad - I had misread what you wrote!

File: FormalConjectures/Wikipedia/Lemoine.lean [hunk 6]
```diff
@@ -0,0 +1,46 @@
...
+-/
+
+def OddPrime (n : ℕ) : Prop :=
+  n ≠ 2 ∧ n.Prime
+
+/--
+For all odd integers $n ≥ 7$ there are prime numbers $p,q$ such that $n = p+2q$.
+-/
+@[category research open, AMS 11]
+theorem lemoine_conjecture (n : ℕ) (hn : 2 < n) (odd : Odd n) :
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/Lemoine.lean]:
```suggestion
theorem lemoine_conjecture (n : ℕ) (hn : 6 < n) (odd : Odd n) :
```

File: FormalConjectures/Wikipedia/Lemoine.lean [hunk 7]
```diff
@@ -0,0 +1,46 @@
...
+    ∃ (p q : ℕ), p.Prime ∧ q.Prime ∧ p + 2 * q = n := by
+  sorry
+
+/--
+For all odd integers $n ≥ 9$ there are odd prime numbers $p,q,r,s$ and natural numbers $a,b$
+such that $p+2q = n$, $2+pq = 2^a+r$, $2p+q = 2^b+s$
+-/
+@[category research open, AMS 11]
+theorem lemoine_conjecture_extension (n : ℕ) (hn : 3 < n) (odd : Odd n) :
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/Lemoine.lean]:
```suggestion
theorem lemoine_conjecture_extension (n : ℕ) (hn : 8 < n) (odd : Odd n) :
```
